US07544704B2
5-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyrimidine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (55 mg, 0.30 mmol) was converted (using 5-bromo-2-iodo-pyrimidine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 58 mg, 56%) which was obtained as a light yellow solid. MS: m/e=341.9 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.30 mmol, 55 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 5-bromo-2-iodo-pyrimidine | BrC=1C=NC(=NC1)I | C4H2BrIN2
product | 5-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyrimidine | 58 mg, 56% | BrC=1C=NC(=NC1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C16H10BrN3O
